US07318965B2
Synthesis of 1-o-biphenylyl-3-phenylisobenzofuran
In Ar, 3.9 g (1.68E-2 mol) of o-bromobiphenyl was dissolved in 30 cm3 of tetrahydrofuran (THF) at −50° C. To the solution was added 10 cm3 of a nBuLi hexane solution (1.5 mol/l). After 2 hours, 3 g (1.4E-2 mol) of 3-phenylphthalide was added to the solution while it was kept cooled at −50° C. After 2 hours, the reaction solution was allowed to resume room temperature, and 10 cm3 of a 35% aqueous hydrochloric acid was added thereto. After 1 hour, toluene extraction was carried out using a separatory funnel, followed by thorough washing with distilled water. After the toluene solution was concentrated, the end product was isolated by silica gel chromatography (developer, toluene:hexane=1:4). There was obtained 4 g (80%) of a yellow viscous substance emitting bluish green fluorescence.

reactant | o-bromobiphenyl | 1.68E-2 mol, 3.9 g | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
reactant | nBuLi hexane | 1.5 mol/l, 10 cm3 | [Li]CCCC.CCCCCC
reactant | 3-phenylphthalide | 1.4E-2 mol, 3 g | C1(=CC=CC=C1)C1OC(=O)C2=CC=CC=C12 | C14H10O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
product | 1-o-biphenylyl-3-phenylisobenzofuran | C1(=C(C=CC=C1)C=1OC(=C2C=CC=CC12)C1=CC=CC=C1)C1=CC=CC=C1 | C26H18O
